US06815447B2
3-(4-Nitrophenylamino)-3-(3-fluorophenyl)-acrylic Acid Butyl Ester:
3-(3-Fluorophenyl)-3-oxo-propionic acid ethyl ester, 106.3 grams (0.506 moles), 4-nitro-aniline, 63.0 grams (0.456 moles), and 4-nitro-aniline hydrochloride 4.0 grams (0.023 moles) were placed in a dry 2 L round-bottom flask. To the mixture was added 1.3 L of n-butanol, the flask was fitted with a Soxhlet extractor (cup volume of 0.3 L), condenser and nitrogen inlet. Dry, activated 4 Å sieves (200 grams) were placed in the extractor cup and the reaction mixture heated to reflux at 118° C. under nitrogen and maintained at that temperature for 90 hours. The reaction mixture was decanted while hot from a small amount of solids and chilled to −15° C. for 48 hours Crystalline solids were collected by vacuum filtration. The crystals were washed with 0.2 L of cold ethanol and two 0.2 L portions of hexanes and vacuum dried at 50° C. overnight to yield 35.8 grams (20.8% yield) of the title compound.

reactant | 3-(3-Fluorophenyl)-3-oxo-propionic acid ethyl ester | C(C)OC(CC(=O)C1=CC(=CC=C1)F)=O | C11H11FO3
reactant | 4-nitro-aniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | 4-nitro-aniline hydrochloride | 0.023 moles, 4.0 grams | Cl.[N+](=O)([O-])C1=CC=C(N)C=C1
solvent | n-butanol | 1.3 L | C(CCC)O | C4H10O
product | 3-(4-Nitrophenylamino)-3-(3-fluorophenyl)-acrylic Acid Butyl Ester | 35.8 grams, 20.8% yield | C(CCC)OC(C=C(C1=CC(=CC=C1)F)NC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H19FN2O4
